US05521170
A mixture of 1-(2-acetoxyethyl)-5-{4-[2-(4-methylphenyl)benzoylamino]benzoyl}-1,3,4,5-tetrahydro-1,5-benzodiazepin-2(2H)-one (450 mg) and potassium carbonate (117 mg) in methanol (15 ml) was stirred at ambient temperature for 3 hours. The mixture was diluted with chloroform and the solution was washed with water and brine, and dried over magnesium sulfate. The solvent was evaporated in vacuo to give 1-(2-hydroxyethyl)-5-{4-[2-(4-methylphenyl)benzoylamino]benzoyl}-1,3,4,5-tetrahydro -1,5-benzodiazepin-2(2H)-one (430 mg).

reactant | 1-(2-acetoxyethyl)-5-{4-[2-(4-methylphenyl)benzoylamino]benzoyl}-1,3,4,5-tetrahydro-1,5-benzodiazepin-2(2H)-one | 450 mg | C(C)(=O)OCCN1C(CCN(C2=C1C=CC=C2)C(C2=CC=C(C=C2)NC(C2=C(C=CC=C2)C2=CC=C(C=C2)C)=O)=O)=O | C34H31N3O5
reactant | potassium carbonate | 117 mg | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 15 ml | CO | CH4O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 1-(2-hydroxyethyl)-5-{4-[2-(4-methylphenyl)benzoylamino]benzoyl}-1,3,4,5-tetrahydro -1,5-benzodiazepin-2(2H)-one | 430 mg | OCCN1C(CCN(C2=C1C=CC=C2)C(C2=CC=C(C=C2)NC(C2=C(C=CC=C2)C2=CC=C(C=C2)C)=O)=O)=O | C32H29N3O4
